US04588828
(trans)-3-(1,2-Heptadiene-4,6-diynyl)oxiranemethanol (2 isomers)
In a separate flask, the mesylate of 6-[(tetrahydro-2H-pyran-2-yl)oxy]-4-hexen-1-yn-3-ol was prepared via the following procedure. To a stirred solution of 6-(tetrahydro-2H-pyran-2-yl)oxy]-4-hexen-1-yn-3-ol (98 mg, 0.5 mmole), anhydrous lithium bromide (43 mg, 0.5 mmole) and a few milligrams of 1,10-phenanthroline in 5 ml of tetrahydrofuran at -78° C. was added n-butyllithium dropwise until a brown color was obtained (ca. 0.5 mmole of n-butyllithium). The mixture was stirred for one-half hour whereupon mesyl chloride (38 μl, 0.5 mmole) was added dropwise. The brown color discharged to yellow. The solution was stirred for 10 minutes at -78° C. and was then added all at once (via short teflon cannula and argon pressure) to the above stirred -20° C. solution of zinc diacetylene. The resultant mixture was stirred at -20° C. for 15 minutes and was then acidified by the addition of a solution of acetic acid in tetrahydrofuran. The mixture was then concentrated to ca. 1/4 volume and 30 ml of a mixture of ether-hexane 1:1 was added with stirring whereupon a gum separated. The supernatant was then filtered through a pad of silica gel. The filtrate was concentrated to dryness and immediately redissolved in a few ml of ether-hexane 1:5 (some solid did not dissolve). This solution of crude product was then purified via flash chromatography (LPS-1 silica gel, ether-hexane 1:10) to afford pure title compound (30 mg). This allene was stored in solution in ether-hexane in the freezer.

reactant | mesyl chloride | 0.5 mmole, 38 μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | zinc diacetylene | C#C.C#C.[Zn]
product | (trans)-3-(1,2-Heptadiene-4,6-diynyl)oxiranemethanol | 30 mg | C(=C=CC#CC#C)[C@H]1[C@@H](O1)CO | C10H8O2
